US07423147B2
Step C. 3-Bromo-5-piperidin-1-yimethyl-pyridine.
5-Bromo-pyridine-3-carbaldehyde (0.190g, 1 mmol), NaB(OAc)3H (0.320 g, 1.50 mmol) and piperidine (0.090 g, 1.05 mmol) were suspended in DCM (8 mL) and the reaction mixture was stirred overnight at rt. The reaction was quenched by the addition of 1 M NaOH solution (5 mL) and the mixture was stirred for 1 h. The reaction mixture was extracted with DCM (3×15 mL). The organic extracts were combined, dried over Na2SO4, filtered, and concentrated to yield a crude oily product (0.18 g, 71%). This crude product was carried to the next step.

reactant | 5-Bromo-pyridine-3-carbaldehyde | 1 mmol, 0.190g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | NaB(OAc)3H | 1.50 mmol, 0.320 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | piperidine | 1.05 mmol, 0.090 g | N1CCCCC1 | C5H11N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-piperidin-1-yimethyl-pyridine | 0.18 g, 71% | BrC=1C=NC=C(C1)CN1CCCCC1 | C11H15BrN2
